US07144876B2
3-(3-Amino-4-chloro-phenyl)-5-(3-bromofuran-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 3-amino-4-chloro-benzamidoxime (293 mg, 1.58 mmol) and 3-bromofuran-2-carbonyl chloride (329 mg, 1.57 mmol) in pyridine (2.8 mL) under reflux similar to Example 1b, yielded 289 mg (54%) as a white solid. 1H NMR (CDCl3): 7.66 (d, J=1.64 Hz, 1H), 7.59 (d, J=1.92 Hz, 1H), 7.50 (dd, J1=8.38 Hz, J2=2.07 Hz, 1H), 7.37 (d, J=8.24 Hz, 1H), 6.75 (d, J=1.93 Hz, 1H), 4.22 (s, 2H).

reactant | 3-amino-4-chloro-benzamidoxime | 1.58 mmol, 293 mg | NC=1C=C(C(N)=NO)C=CC1Cl | C7H8ClN3O
reactant | 3-bromofuran-2-carbonyl chloride | 1.57 mmol, 329 mg | BrC1=C(OC=C1)C(=O)Cl | C5H2BrClO2
solvent | pyridine | 2.8 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-Amino-4-chloro-phenyl)-5-(3-bromofuran-2-yl)-[1,2,4]-oxadiazole | NC=1C=C(C=CC1Cl)C1=NOC(=N1)C=1OC=CC1Br | C12H7BrClN3O2
